US08426411B2
tert-Butyl 2-(4-(dibenzylamino)-2-methylcyclopentyl)-2-oxoethyl(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)carbamate (6.19 g, 8.75 mmol) was dissolved in HCl (4 N in 1,4-dioxane, 25 mL). The reaction mixture was stirred at ambient temperature for about 2 h. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 and EtOAc (100 mL each). The organic phase was washed with brine (80 mL), dried over anhydrous MgSO4 and concd under reduced pressure to yield 1-(4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone (5.2 g, 98%) as a brown amorphous solid: LC/MS (Table 1, Method a) Rt=3.00 min; MS m/z 608 (M+H)+.

reactant | tert-Butyl 2-(4-(dibenzylamino)-2-methylcyclopentyl)-2-oxoethyl(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)carbamate | 8.75 mmol, 6.19 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C(CN(C(OC(C)(C)C)=O)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)C)CC2=CC=CC=C2 | C40H45N5O5S
solvent | HCl | 4 N, 25 mL | Cl | ClH
product | 1-(4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone | 5.2 g, 98% | C(C1=CC=CC=C1)N(C1CC(C(C1)C(CNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)C)CC2=CC=CC=C2 | C35H37N5O3S
